US07153878B2
3-(4-{2-[4-Isopropyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propylamino}-2-methyl-phenyl)-propionic acid methyl ester
To a solution of 3-(4-Amino-2-methyl-phenyl)-propionic acid methyl ester (0.7.0 mmol) and 2-[4-Isopropyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propionaldehyde (0.71 mmol) in anhydrous CH2Cl2 (5 mL) is added 4 Å molecular sieves followed by acetic acid (50 μL, 0.87 mmol). The mixture is stirred at RT for 2 h. Sodium triacetoxyborohydride (0.22 g, 1.04 mmol) is added, and the mixture is stirred at RT for 12 h. The reaction is quenched with saturated NaHCO3. The organics are separated and washed with saturated NaHCO3 and brine, and dried with MgSO4. The crude material is purified by flash chromatography to yield the title compound (0.21 g, 68%).

reactant | 3-(4-Amino-2-methyl-phenyl)-propionic acid methyl ester | COC(CCC1=C(C=C(C=C1)N)C)=O | C11H15NO2
reactant | 2-[4-Isopropyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propionaldehyde | 0.71 mmol | C(C)(C)C=1N=C(SC1C(C=O)C)C1=CC=C(C=C1)C(F)(F)F | C16H16F3NOS
reactant | acetic acid | 0.87 mmol, 50 μL | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxyborohydride | 1.04 mmol, 0.22 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-{2-[4-Isopropyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propylamino}-2-methyl-phenyl)-propionic acid methyl ester | 0.21 g, 68% | COC(CCC1=C(C=C(C=C1)NCC(C)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C(C)C)C)=O | C27H31F3N2O2S
